US08404678B2
To a cooled (0° C.) solution of 6-[3,5-Bis-(tert-butyl-dimethyl-silyloxymethyl)-phenyl]-hex-5-ynoic acid methyl ester (140 mg) in anhydrous tetrahydrofurane (0.3 mL) was slightly added a solution of tetrabutylammonium fluoride 1 M in THF (716 μL). After 75 min at rt, ethyl acetate (20 mL) was added and the organic phase was washed three times with water (5 mL) and once with a saturated aqueous solution of sodium chloride (5 mL), dried over sodium sulfate and concentrated in vacuo to a residue. The residue was purified by silica gel chromatography (Merck SuperVarioFlash 15 g column, Si60 15-40 μm), using gradient elution with a mixture of heptane (A)/ethyl acetate (B), (gradient: 50% A: 50% B down to 10% A: 90% B) to give 6-(3,5-Bis-hydroxymethyl-phenyl)-hex-5-ynoic acid methyl ester (64.3 mg) as a pale yellow oil. LC/MS (Method A3): ES: m/z 263 (M+H)+; RT=0.62 min

reactant | 6-[3,5-Bis-(tert-butyl-dimethyl-silyloxymethyl)-phenyl]-hex-5-ynoic acid methyl ester | 140 mg | COC(CCCC#CC1=CC(=CC(=C1)C(O[SiH2]C(C)(C)C)(C)C)C(O[SiH2]C(C)(C)C)(C)C)=O | C27H46O4Si2
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofurane | 0.3 mL | O1CCCC1 | C4H8O
solvent | THF | 716 μL | C1CCOC1 | C4H8O
product | 6-(3,5-Bis-hydroxymethyl-phenyl)-hex-5-ynoic acid methyl ester | 64.3 mg | COC(CCCC#CC1=CC(=CC(=C1)CO)CO)=O | C15H18O4
